US07012075B2
3-Bromophenol (2.99 g, 17 mmoles) in a mixture of DMF (3 mL) and THF (15 mL) was treated with potassium tert-butoxide (1.85 g, 16.5 mmoles) and stirred for 30 minutes. Methyl 2-bromo-4-methylpentanoate (2.5 mL, 15.75 mmoles) was added in one portion and the reaction was stirred overnight. The reaction was diluted with diethyl ether, water and sat. aq. bicarbonate. The phases were separated and the organic phase was washed with 2 portions of 1.2 N hydrochloric acid and then brine. The organic phase was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a residue which was purified by flash chromatography to give methyl 2-(3-bromophenoxy)-4-methylpentanoate.

reactant | 3-Bromophenol | 17 mmoles, 2.99 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | potassium tert-butoxide | 16.5 mmoles, 1.85 g | CC(C)([O-])C.[K+]
reactant | Methyl 2-bromo-4-methylpentanoate | 15.75 mmoles, 2.5 mL | BrC(C(=O)OC)CC(C)C | C7H13BrO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | bicarbonate | C([O-])(O)=O
product | methyl 2-(3-bromophenoxy)-4-methylpentanoate | BrC=1C=C(OC(C(=O)OC)CC(C)C)C=CC1 | C13H17BrO3
